* Non ideal capacitor with esr and esl
.subckt C_with_parasitics 1 4 cap=1nF esr=1m esl=1nH IC=0V
C1 1 2 {cap} IC={IC}
R1 2 3 {esr}
L1 3 4 {esl}
.ends

* Non ideal inductor with esr and epc
.subckt L_with_parasitics 1 3 ind=1uH esr=1m epc=10pF
R1 1 2 {esr}
C1 2 3 {epc}
L1 2 3 {ind}
.ends

.subckt C1210C474KARACAUTO7210_albin 1 4 IC=0V
C1 1 2 Q={4.619122696091285e-07 + 2.2987977341847133e-09 * V(1,2) + -1.1871980726621069e-10 * V(1,2)**2 + 1.028483067713827e-12 * V(1,2)**3 + -3.5752189631824305e-15 * V(1,2)**4 + 4.4691309113948826e-18 * V(1,2)**5} IC={IC}
R1 2 3 8.15m
L1 3 4 701pH
.ends

* Non ideal capacitor with esr and esl
.subckt L_coilcraft 1 6 r1=9.9 r2=8.9m c=9.7pF k1=1u k2=0.583 k3=4.7 k4=1u k5=1u
R1 1 2 {r1}
C1 2 3 {c}
G§Lvar1 1 5 LAPLACE=+1/(S*1e-6*({k3}-({k4}*LOG({k5}*(abs(S)/(2*pi))))))
G§Rvar1 5 3 LAPLACE=+1/{k2}/(-S*S/4/PI^2)^0.25
G§Rvar2 1 3 LAPLACE=+1/{k1}/(-S*S/4/PI^2)^0.25
R2 3 6 {r2}
.ends
